US06593322B1
A. 5-Bromo-2-(dimethylamino)pyridine
A solution of 2,5-dibromopyridine (11.84 g, 50.0 mmol) in 2.0 M solution of dimethylamine in tetrahydrofuran (100 mL) in a sealed tube was heated at 120° C. for 12 hours. The reaction was quenched with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 10-15% ethyl acetate/hexane) to provide the title compound (8.67 g, 86% yield): 1H NMR (CDCl3) 8.16 (d, 1H), 7.49 (dd, 1H), 6.41 (d, 1H), 3.05 (s, 6H); ES-MS m/z 201 [M+H]+.

reactant | 2,5-dibromopyridine | 50.0 mmol, 11.84 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-Bromo-2-(dimethylamino)pyridine | 8.67 g, 86% yield | BrC=1C=CC(=NC1)N(C)C | C7H9BrN2
